US04783471
A solution of (4-methoxyphenyl)[1-(2-phenylethyl)-4-piperidinyl]-methanone hydrochloride (3.5 g, 9.7 mmol) in absolute EtOH (75 ml) was treated with sodium methoxide (0.53 g, 9.7 mmol followed by sodium borohydride (1.08 g, 20 mmol) and the mixture stirred for 42 h at room temperature. The reaction mixture was filtered and the filtrate concentrated to a solid residue which was dissolved in absolute Et2O and treated with HCl (9.7 mmol) dissolved in CH3OH/EtOAc (1:3, 8 ml). The resulting precipitate was filtered and recrystallized from CH3OH/Et2O to give alpha-(4-methoxyphenyl)-1-(2-phenylethyl)-4-piperidinemethanol hydrochloride, mp 162.5°-164° C.

reactant | (4-methoxyphenyl)[1-(2-phenylethyl)-4-piperidinyl]-methanone hydrochloride | 9.7 mmol, 3.5 g | Cl.COC1=CC=C(C=C1)C(=O)C1CCN(CC1)CCC1=CC=CC=C1
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium borohydride | 20 mmol, 1.08 g | [BH4-].[Na+]
reactant | HCl | 9.7 mmol | Cl | ClH
solvent | EtOH | 75 ml | CCO | C2H6O
solvent | CH3OH EtOAc | 8 ml | CO.CCOC(=O)C
product | alpha-(4-methoxyphenyl)-1-(2-phenylethyl)-4-piperidinemethanol hydrochloride | Cl.COC1=CC=C(C=C1)C(O)C1CCN(CC1)CCC1=CC=CC=C1 | InChI=1S/C21H27NO2.ClH/c1-24-20-9-7-18(8-10-20)21(23)19-12-15-22(16-13-19)14-11-17-5-3-2-4-6-17;/h2-10,19,21,23H,11-16H2,1H3;1H
